US04385143
Into a 500-ml four-necked flask, were charged 24.1 g of 2-methyl-4-t-butyl-5-hydroxyphenylacetyl chloride, 300 ml of toluene and 50 ml of pyridine. After replacing air in the reactor by nitrogen, 18.7 g of dodecyl alcohol was added to the mixture at 30° to 40° C., and then the reaction was continued at 30° to 40° C. for about 8 hours. After completion of the reaction, pyridine was neutralized with diluted hydrochloric acid, and the reaction mixture was washed with water, dried over anhydrons sodium sulfate and then freed from the solvent under reduced pressure to obtain 33.2 g (85% yield) of viscous dodecyl 2-methyl-4-t-butyl-5-hydroxyphenylacetate.

reactant | 2-methyl-4-t-butyl-5-hydroxyphenylacetyl chloride | 24.1 g | CC1=C(C=C(C(=C1)C(C)(C)C)O)CC(=O)Cl | C13H17ClO2
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | dodecyl alcohol | 18.7 g | C(CCCCCCCCCCC)O | C12H26O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | dodecyl 2-methyl-4-t-butyl-5-hydroxyphenylacetate | 33.2 g, 85% yield | CC1=C(C=C(C(=C1)C(C)(C)C)O)CC(=O)OCCCCCCCCCCCC | C25H42O3
